US08058299B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (3.0 g, 11.7 mmol), 6-bromo-pyridin-3-ylamine (2.0 g, 11.7 mmol), 1-hydroxy-7-azabenzotriazole (HOAT) (2.4 g, 17.5 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.4 g, 17.5 mmol) in anhydrous dichloromethane (100 mL) was stirred at room temperature overnight. The reaction mixture was concentrated and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried and concentrated to give a solid. Recrystallization of the crude solid from ethyl acetate/hexane/methanol gave 4.04 g of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-bromo-pyridin-3-yl)-amide. The mother liquor was purified by flash chromatography (Merck silica gel 60, 230-400 mesh, 0%-100% ethyl acetate in hexane) to give an additional 200 mg of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-bromo-pyridin-3-yl)-amide (4.24 g in total, 88%) as a light brown solid. LCMS calcd for C16H9BrF3N3O2 (m/e) 412, obsd 413 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 11.7 mmol, 3.0 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 6-bromo-pyridin-3-ylamine | 11.7 mmol, 2.0 g | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | 1-hydroxy-7-azabenzotriazole | 17.5 mmol, 2.4 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 17.5 mmol, 3.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-bromo-pyridin-3-yl)-amide | 4.04 g | BrC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C16H9BrF3N3O2
